US06552196B2
1-benzyl-4-methanesulfonyloxymethyl-4-hydroxymethyl-pyrrolidine-3-one-O-methyloxime was dissolved in 400 ml of dimethylformamide and thereto 21 g of sodium azide was added and the resulting solution was stirred for 6 hours at 110° C. The reaction mixture was concentrated under the reduce pressure, diluted with 300 ml of ethylether, washed twice with each 200 ml of water and twice with each 200 ml of saline solution, dried with magnesium sulfate, filtered and concentrated under the reduced pressure to give 31 g of 1-benzyl-4-azidomethyl-4-hydroxymethyl-pyrrolidine-3-one-O-methyloxime (yield: 87.3%). The obtained compound and 18 ml of triethylamine were added into 300 ml of dichloromethane and cooled to 0-5° C., and thereto 9.0 ml of methanesulfonylchloride was slowly added by dropping. The reaction temperature was increased up to room temperature and the mixture was stirred for 1 hour. The reaction mixture was washed with 200 ml of water and 200 ml of saline solution, dried with magnesium sulfate, filtered and concentrated under the reduced pressure and the concentrated residue was purified by silicagel column chromatography(ethylacetate:normal hexane=1:3) to give 38.8 g of the titled compound (yield: 98.4%).

reactant | 1-benzyl-4-methanesulfonyloxymethyl-4-hydroxymethyl-pyrrolidine-3-one-O-methyloxime | CON=C1CN(CC1(CO)COS(=O)(=O)C)CC1=CC=CC=C1 | C15H22N2O5S
reactant | sodium azide | 21 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-azidomethyl-4-hydroxymethyl-pyrrolidine-3-one-O-methyloxime | 31 g, yield: 87.3% | CON=C1CN(CC1(CO)CN=[N+]=[N-])CC1=CC=CC=C1 | C14H19N5O2
